US07498337B2
tert-butyl {[5-(4-chloro-2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate
By a similar operation as in Reference Example 44 and using tert-butyl {[5-(4-chloro-2-fluorophenyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (127 mg), sodium hydride (60% in oil, 54 mg), 15-crown-5 (0.22 mL) and pyridin-3-ylsulfonyl chloride hydrochloride (120 mg), the title compound was obtained as a colorless oil (yield 103 mg, 57%).

reactant | tert-butyl {[5-(4-chloro-2-fluorophenyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 127 mg | ClC1=CC(=C(C=C1)C1=CC(=CN1)CN(C(OC(C)(C)C)=O)C)F | C17H20ClFN2O2
reactant | sodium hydride | 54 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.22 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | pyridin-3-ylsulfonyl chloride hydrochloride | 120 mg | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
product | tert-butyl {[5-(4-chloro-2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | ClC1=CC(=C(C=C1)C1=CC(=CN1S(=O)(=O)C=1C=NC=CC1)CN(C(OC(C)(C)C)=O)C)F | C22H23ClFN3O4S
